US06562807B2
Trans-4-[1-(3,5-bis(trifluoromethyl)phenyl)-3-(4-tert-butylcyclohexyl)ureidomethyl]benzoic acid methyl ester (1.4 g) was suspended in absolute ethanol (20 mL), sodium hydroxide (2N, 11 mL) was added and the reaction mixture was gently refluxed for 2 hours. The ethanol was removed in vacuo, additional water (40 mL) was added, pH was adjusted with hydrochloride (4 N) to acidic reaction and then ethyl acetate (200 mL) was added. The organic phase was isolated, washed with water (4×50 mL), dried with magnesium sulphate, filtered and evaporated in vacuo, affording 1.1 g (85%) trans-4-[1-(3,5-bis(trifluoromethyl)phenyl)-3-(4-tert-butylcyclohexyl)ureidomethyl]benzoic acid as a solid.

reactant | Trans-4-[1-(3,5-bis(trifluoromethyl)phenyl)-3-(4-tert-butylcyclohexyl)ureidomethyl]benzoic acid methyl ester | 1.4 g | COC(C1=CC=C(C=C1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NC(=O)N[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C28H32F6N2O3
reactant | sodium hydroxide | 2N, 11 mL | [OH-].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | trans-4-[1-(3,5-bis(trifluoromethyl)phenyl)-3-(4-tert-butylcyclohexyl)ureidomethyl]benzoic acid | 1.1 g, 85% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C1=CC=C(C(=O)O)C=C1)NC(=O)N[C@@H]1CC[C@H](CC1)C(C)(C)C)(F)F | C27H30F6N2O3
